US06531558B1
Preparation of 1-[2-(2-tert-butoxyethoxy)ethoxy]-1,2,2-trifluoroethene (Bu-TFVE)
Bu-TFVE was prepared by mixing 2.66 g of NaH (0.111 mol) and 1 g of 18-crown-6 with 135 mL of glyme under inert atmosphere at 65° C. 15.0 g (0.092 mol) of 2-(2-t-butoxyethoxy)ethanol was slowly added to the flask and stirred at 65° C. 1 h. The alkoxide was transferred to the dry 300 mL Parr reactor, stirred and heated at 65° C. for 1 h after which TFE gas was added. The pressure was maintained at ˜50-60 PSI. A very slight exotherm (˜5° C.) was initially observed. After 45 minutes, stirring was stopped and the reactor was cooled to room temperature. Excess TFE was carefully vented and the reactor contents transferred to a 500 mL Erlenmeyer flask. The mixture was diluted to 300 mL with pentane to effect complete precipitation of sodium salts. The mixture was filtered through a course frit funnel to remove sodium salts. The liquid fraction was rotary evaporated to give a clear yellow crude product. The crude product was vacuum fractionally distilled over potassium carbonate. 14.1 g (63% yield) of the desired product, 1-[2-(2-ethoxyethoxy)ethoxy]-1,2,2-trifluoroethene, was isolated at a boiling point of 26-27° C. (pressure 0.15 mmHg, >99% purity by GC). 19F NMR: δ=−123.5 (dd, 1F J=56, 104 Hz, CF), −130.3 (dd, 1F J=104, 108, CF), −135.1 (dd, 1F J=56, 108 Hz, CF); 1H NMR: δ=4.15 (m, 2H, CFOCF2), 3.75 (t, 2H, OCH2), 3.65-3.45 (m, 4H, OCH2), 1.2(s, 9H, C(CH3)3).

reactant | NaH | 0.111 mol, 2.66 g | [H-].[Na+]
reactant | glyme | 135 mL | C(OC)COC | C4H10O2
reactant | 2-(2-t-butoxyethoxy)ethanol | 0.092 mol, 15.0 g | C(C)(C)(C)OCCOCCO | C8H18O3
reactant | 1-[2-(2-ethoxyethoxy)ethoxy]-1,2,2-trifluoroethene | C(C)OCCOCCOC(=C(F)F)F | C8H13F3O3
solvent | pentane | CCCCC | C5H12
catalyst | 18-crown-6 | 1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 1-[2-(2-tert-butoxyethoxy)ethoxy]-1,2,2-trifluoroethene | 14.1 g, 63% yield | C(C)(C)(C)OCCOCCOC(=C(F)F)F | C10H17F3O3
